US05376647
A mixture of 2-mercaptopyrimidine (7.3 g), N-(2-bromoethyl)phthalimide (16.5 g), potassium carbonate (10.8 g) and N,N-dimethylformamide (DMF) (85 ml) was stirred at room temperature for 3 hours. The reaction mixture was poured into water and the crystals separated were collected by filtration to obtain N-[2-(2-pyrimidinylthio)ethyl]-phthalimide (17.3 g, 93%). The resultant was recrystallized from ethanol-isopropyl ether to obtain pale yellow prisms, m.p. 149°-150° C.

reactant | 2-mercaptopyrimidine | 7.3 g | SC1=NC=CC=N1 | C4H4N2S
reactant | N-(2-bromoethyl)phthalimide | 16.5 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | potassium carbonate | 10.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[2-(2-pyrimidinylthio)ethyl]-phthalimide | 17.3 g, 93% | N1=C(N=CC=C1)SCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H11N3O2S
